US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-3-[(1-chloro-5-isoquinolyl)oxy]propylamine (Intermediate 18)
A suspension of 1-chloro-5-hydroxyisoquinoline (539 mg, synthesized according to the method described in a reference (Georgian, V. et al., J. Org. Chem., 27, 4571 (1962))), (3-hydroxypropyl)carbamic acid tert-butyl ester (1.58 g, Tokyo Kasei Kogyo) and 1,1′-azobis(N,N-dimethylformamide) (1.55 g) in tetrahydrofuran (8 ml) was added with tri(n-butyl)phosphine (2.24 ml) with ice cooling and stirred at room temperature for 24 hours. The deposited solid was removed by filtration, and the solvent was evaporated under reduced pressure. Then, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) to obtain the title compound (860 mg) as white powdery solid.

reactant | 1-chloro-5-hydroxyisoquinoline | ClC1=NC=CC2=C(C=CC=C12)O | C9H6ClNO
reactant | (3-hydroxypropyl)carbamic acid tert-butyl ester | 1.58 g | C(C)(C)(C)OC(NCCCO)=O | C8H17NO3
reactant | 1,1′-azobis(N,N-dimethylformamide) | 1.55 g | N(=NC(=O)N(C)C)C(=O)N(C)C | C6H12N4O2
reactant | tri(n-butyl)phosphine | 2.24 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | N-(tert-butoxycarbonyl)-3-[(1-chloro-5-isoquinolyl)oxy]propylamine | 860 mg | C(C)(C)(C)OC(=O)NCCCOC1=C2C=CN=C(C2=CC=C1)Cl | C17H21ClN2O3
